US05576437
A mixture of 2-methyl-3-nitroaniline (10 g), glycerin (20.57 g) and As2O5.xH2O (Baker, 88% As2O5, 8.5 g) is heated slowly to 150° C. in an open round-bottom flask, then stirred for 6 hrs at 150° C. The resulting mixture is cooled to room temperature and diluted with water (200 mL), then basified with ammonium hydroxide (28-30%, 100 mL). After about 10 minutes, the solution is acidified to pH=5 with glacial acetic acid and extracted with CH2Cl2 (3×200 mL). The combined extracts are washed with H2O (200 mL), sat. NaHCO3 (200 mL), then dried over MgSO4 and rotary evaporated. The crude quinoline is filtered through a short pad of silica gel, using CH2Cl2 as solvent. The filtrate is rotary evaporated and the residue recrystallized from hexane/CH2Cl2 to afford 8-methyl-7-nitroquinoline as a tan solid.

reactant | 2-methyl-3-nitroaniline | 10 g | CC1=C(N)C=CC=C1[N+](=O)[O-] | C7H8N2O2
reactant | glycerin | 20.57 g | OCC(O)CO | C3H8O3
reactant | ammonium hydroxide | 100 mL | [OH-].[NH4+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 200 mL | O | H2O
product | 8-methyl-7-nitroquinoline | CC=1C(=CC=C2C=CC=NC12)[N+](=O)[O-] | C10H8N2O2
